US04205170
The mixture of 40 mg of 2-(5,6-dihydro-6-oxo benzo[b]-pyrido[3,2-f]oxepin-9-yl)-propionamide, 180 mg of potassium hydroxide, 1.5 ml of water and 5 ml of ethanol was refluxed with stirring for 5 hours. After cooling, the solvent was distilled off to obtain the residue, to this was added ice-water and the mixture was acidified with acetic acid and extracted with chloroform. The extract was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain the oil, which was chromatographed over silica gel, eluted with chloroform-ethanol, and there was obtained 20 mg of 2-(5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]oxepin-9-yl)-propionic acid as pale yellow powder.

reactant | 2-(5,6-dihydro-6-oxo benzo[b]-pyrido[3,2-f]oxepin-9-yl)-propionamide | 40 mg | O=C1C2=C(OC3=C(C1)C=CC=N3)C=C(C=C2)C(C(=O)N)C | C16H14N2O3
reactant | potassium hydroxide | 180 mg | [OH-].[K+]
reactant | water | 1.5 ml | O | H2O
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]oxepin-9-yl)-propionic acid | 20 mg | O=C1C2=C(OC3=C(C1)C=CC=N3)C=C(C=C2)C(C(=O)O)C | C16H13NO4
